US06307061B2
2-(R)-Phenyl-2-(3-pyrroline-1-yl)ethanol
This was prepared from R-(−)-(2-phenylglycinol and cis-1,4-dichloro-2-butene in 58% yield according to the procedures similar to those described in Preparation 1.

reactant | 2-phenylglycinol | C1(=CC=CC=C1)C(N)CO | C8H11NO
reactant | cis-1,4-dichloro-2-butene | ClC\C=C/CCl | C4H6Cl2
product | 2-(R)-Phenyl-2-(3-pyrroline-1-yl)ethanol | 58% yield | C1(=CC=CC=C1)[C@H](CO)N1CC=CC1 | C12H15NO
